US06759414B2
Preparation of 2-(1-(3-carboxypyridin-4-yl)piperidin-4-ylmehtylamino-N-(5-chloropyridin-2-yl)benzamide
Using a similar procedure to that described in Example 52, N-(5-chloropyridin-2-yl)-2-(piperidin-4-ylmethylamino)benzamide (100 mg, 0.29 mmol), 4-chloronicotinic acid (91 mg, 0.58 mmol), triethylamine (59 mg, 0.58 mmol), and ethanol (5 mL) yielded, after RPHPLC purification, 45 mg (33%) of the title compound as a trifluoroacetate salt.

reactant | N-(5-chloropyridin-2-yl)-2-(piperidin-4-ylmethylamino)benzamide | 0.29 mmol, 100 mg | ClC=1C=CC(=NC1)NC(C1=C(C=CC=C1)NCC1CCNCC1)=O | C18H21ClN4O
reactant | 4-chloronicotinic acid | 0.58 mmol, 91 mg | ClC1=CC=NC=C1C(=O)O | C6H4ClNO2
reactant | triethylamine | 0.58 mmol, 59 mg | C(C)N(CC)CC | C6H15N
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | 1-(3-carboxypyridin-4-yl)piperidin-4-ylmehtylamino-N-(5-chloropyridin-2-yl)benzamide | C(=O)(O)C=1C=NC=CC1C1(C(=O)NC2=NC=C(C=C2)Cl)C(C=CC=C1)NCC1CCNCC1 | C24H26ClN5O3
